US04282156
Preparation of 1:1 cis:trans Aconitic Acid
Nine grams of the product as prepared in Example 19, i.e. tetrasodium propane-1,1,2,3-tetracarboxylate, is dissolved in 100 mls water and acidified with dilute HCl (10%). Liberation of CO2 is instantaneous. The residue, after evaporation of water, is extracted with acetone. The acetone is evaporated to leave a residue consisting of a 1:1 by weight mixture of cis:trans aconitric acid. The structure of the product is confirmed by NMR analysis (D2O):

reactant | tetrasodium propane-1,1,2,3-tetracarboxylate | C(C(CC(=O)[O-])C(=O)[O-])(C(=O)[O-])C(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | HCl | Cl | ClH
reactant | CO2 | C(=O)=O | CO2
solvent | water | 100 mls | O | H2O
product | trans Aconitic Acid | C(/C(=C\C(=O)O)/C(=O)O)C(=O)O | C6H6O6
